US05783591
500 mg (1.8 mmol) of 5-methyl-5-(3-cyclopropylmethoxy-4-methoxyphenyl)-2-oxazolidinone was first agitated with 75 mg (3.1 mmol) of sodium hydride in 17 ml of dimethylformamide for 30 minutes and, after adding 0.32 ml (2.7 mmol) of benzyl bromide, for 2 hours at room temperature. The procedure was continued analogously to Example 10, thus obtaining 348 mg of 5-methyl-5(3-cyclopropylmethoxy-4-methoxyphenyl)-3-benzyl-2-oxazolidinone as an oil.

reactant | 5-methyl-5-(3-cyclopropylmethoxy-4-methoxyphenyl)-2-oxazolidinone | 1.8 mmol, 500 mg | CC1(CNC(O1)=O)C1=CC(=C(C=C1)OC)OCC1CC1 | C15H19NO4
reactant | sodium hydride | 3.1 mmol, 75 mg | [H-].[Na+]
reactant | benzyl bromide | 2.7 mmol, 0.32 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | 5-methyl-5(3-cyclopropylmethoxy-4-methoxyphenyl)-3-benzyl-2-oxazolidinone | 348 mg | CC1(CN(C(O1)=O)CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OCC1CC1 | C22H25NO4
